US04876300
N,N-Dihexadecylhydroxylamine
The general procedure of Example 11 is followed using 100 grams (0.19 mol) of dihexadecylamine (451 eq. wt., 88% secondary amine, 30.2 grams (0.44 mol) of 50% aqueous hydrogen perioxide solution and 400 ml of ethanol. After stirring for 48 hours, the reaction mixture is filtered to give the above-named product which is twice recrystallized from 500 ml of chloroform. The desired product is obtained in a yield of 29.4 grams (32%) as white needles melting at 97°-99° C.

reactant | dihexadecylamine | 0.19 mol, 100 grams | C(CCCCCCCCCCCCCCC)NCCCCCCCCCCCCCCCC | C32H67N
reactant | hydrogen | 0.44 mol, 30.2 grams | [H][H] | H2
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | N,N-Dihexadecylhydroxylamine | C(CCCCCCCCCCCCCCC)N(O)CCCCCCCCCCCCCCCC | C32H67NO
